US09290451B2
c) 5-[Bis-(2,2,2-trifluoro-ethyl)-amino]-6-cyclopropylmethoxy-pyridine-2-carboxylic acid ((S)-1-carbamoyl-2-cyclopropyl-ethyl)-amide
The title compound was synthesized in analogy to Example 1, using 5-[bis-(2,2,2-trifluoro-ethyl)-amino]-6-cyclopropylmethoxy-pyridine-2-carboxylic acid and (S)-2-amino-3-cyclopropyl-propionamide (CAN 156077-93-9) as starting materials, MS (EI): m/e=483.1 [M+H]+.

reactant | 5-[bis-(2,2,2-trifluoro-ethyl)-amino]-6-cyclopropylmethoxy-pyridine-2-carboxylic acid | FC(CN(C=1C=CC(=NC1OCC1CC1)C(=O)O)CC(F)(F)F)(F)F | C14H14F6N2O3
reactant | (S)-2-amino-3-cyclopropyl-propionamide | N[C@H](C(=O)N)CC1CC1 | C6H12N2O
product | 5-[Bis-(2,2,2-trifluoro-ethyl)-amino]-6-cyclopropylmethoxy-pyridine-2-carboxylic acid ((S)-1-carbamoyl-2-cyclopropyl-ethyl)-amide | C(N)(=O)[C@H](CC1CC1)NC(=O)C1=NC(=C(C=C1)N(CC(F)(F)F)CC(F)(F)F)OCC1CC1 | C20H24F6N4O3
